US05955607
A reaction mixture of 3.0 g (12 mmol) of 4-amino-6-butoxy-2,2-dimethylchroman, 4.9 g (48 mmol) of triethylamine and 1.65 g (14.4 mmol) of methanesulfonyl chloride in 25 ml of THF was stirred at RT for 3 h. After concentrating, the residue was taken up in water and extracted with EA. After drying and concentrating, the product was crystallized using PE and 2.25 g of 6-butoxy-4-(methylsulfonyl)amino-2,2-dimethylchroman were obtained; m.p. 123-127° C.

reactant | 4-amino-6-butoxy-2,2-dimethylchroman | 12 mmol, 3.0 g | NC1CC(OC2=CC=C(C=C12)OCCCC)(C)C | C15H23NO2
reactant | triethylamine | 48 mmol, 4.9 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 14.4 mmol, 1.65 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 6-butoxy-4-(methylsulfonyl)amino-2,2-dimethylchroman | 2.25 g | C(CCC)OC=1C=C2C(CC(OC2=CC1)(C)C)NS(=O)(=O)C | C16H25NO4S
